US06558818B1
Dry tetrahydrofuran (300 ml) was added to a mixture of methyltriphenylphosphonium iodide (17.00 g, 42.0 mmoles) and potassium t-butoxide (4.72 g, 42.0 mmoles) and stirred at room temperature for 10 minutes. 3,5-bis(3′,5′-di-t-butylstyryl)benzaldehyde (17.00 g, 42.0 mmoles) was then added and the reaction mixture was stirred at room temperature for 75 minutes. The solvent was then evaporated and the remaining sludge was triturated with dichloromethane-pet.ether (40-60) (1:9) and filtered through silica, rinsing thoroughly with the same solvent mixture. The solvent was evaporated to give 3,5-bis(3′,5′-di-t-butylstyryl)styrene (14.83 g, 99%), mp 150° C. (Found: C, 90.03; H, 9.98. C40H52 requires C, 90.16; H, 9.84%); λmax(CHCl3)/nm 318 (ε/dm3 mol-1 cm-1 68500); δH(500 MHz; CDCl3) 1.39 (36H, s, tBu), 5.34 (1H, d, J 11, 8-H), 5.88 (1H, d, J 18, 8-H), 6.79 (1H, dd, J 11 and 18, 7-H), 7.15 (2H, d, J 16, 7′-H), 7.25 (2H, d, J 16, 8′-H), 7.38 (2H, t, J 1.75, 1′-H), 7.42 (4H, d, J 1.75, 3′, 5′-H), 7.49 (2H, d, J 1.3, 3,5-H), 7.63 (1H, m, 1-H).

reactant | methyltriphenylphosphonium iodide | 42.0 mmoles, 17.00 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 42.0 mmoles, 4.72 g | CC(C)([O-])C.[K+]
reactant | 3,5-bis(3′,5′-di-t-butylstyryl)benzaldehyde | 42.0 mmoles, 17.00 g | C(C)(C)(C)C=1C=C(C=CC=2C=C(C=O)C=C(C2)C=CC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C39H50O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3,5-bis(3′,5′-di-t-butylstyryl)styrene | 14.83 g, 99% | C(C)(C)(C)C=1C=C(C=CC=2C=C(C=C)C=C(C2)C=CC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C40H52
